US07498440B2
Ethyl 1-(2-chloroethyl)-4-piperidinecarboxylate
To a solution of ethyl nipecotate (20.0 mL, 130 mmol) in acetone (180 mL) was added 1-bromo-2-chloroethane (21.6 mL, 260 mmol) followed by anhydrous K2CO3 (27.12 g, 196 mmol). The reaction mixture was stirred for 24 h and then concentrated under vacuum. The resulting residue was treated with H2O (75 mL) and extracted with Et2O. The combined organic layers were dried with MgSO4, filtered, and concentrated under vacuum. Purification of the crude residue by flash chromatography (50% Et2O/50% hexane) on silica gel gave the title compound (10.99 g, 38.6%). EI-MS m/z 220(M+H+) Rt (1.20 min).

reactant | ethyl nipecotate | 130 mmol, 20.0 mL | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 1-bromo-2-chloroethane | 260 mmol, 21.6 mL | BrCCCl | C2H4BrCl
reactant | K2CO3 | 196 mmol, 27.12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 180 mL | CC(=O)C | C3H6O
product | Ethyl 1-(2-chloroethyl)-4-piperidinecarboxylate | 10.99 g, 38.6% | ClCCN1CCC(CC1)C(=O)OCC | C10H18ClNO2
